US08580812B2
Step 3. Pyrazolo[1,5-a]pyridine-2,4-dicarboxylic acid 2-ethyl ester
A 2.65 M solution of the Jones reagent (28 mL) is added dropwise over 40 min to a solution of 4-hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester (5.30 g, 24.1 mmol) and acetone (240 mL) under air cooled by a water bath. After 20 min, isopropanol (3 mL) is added dropwise. After stirring for 30 min, the blue-green mixture is filtered (acetone rinse). The organics are concentrated under reduced pressure. The residue is dissolved in water. Et2O is added and the mixture is stirred for 15 min. The resulting solid is collected by filtration. The filtrate is dried to afford the title compound as a tan solid. LC-MS m/z (M+Na+): 257.02§.

reactant | Jones reagent | 28 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 4-hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | 24.1 mmol, 5.30 g | C(C)OC(=O)C1=NN2C(C(=CC=C2)CO)=C1 | C11H12N2O3
reactant | acetone | 240 mL | CC(=O)C | C3H6O
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | Pyrazolo[1,5-a]pyridine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1=NN2C(C(=CC=C2)C(=O)O)=C1 | C11H10N2O4
